US08536197B2
(238a) Ethyl 2-[(3R)-3-aminopyrrolidin-1-yl]-4-methyl-1,3-thiazole-5-carboxylate
The same operation as in Example (237a) was performed using (3R)-3-aminopyrrolidine (0.16 mL, 1.80 mmol), ethyl 2-bromo-4-methylthiazole-5-carboxylate (300 mg, 1.20 mmol) and diisopropylethylamine (0.42 mL, 2.40 mmol), to obtain 265 mg of the title compound as a pale yellow solid (87%).

reactant | (3R)-3-aminopyrrolidine | 1.80 mmol, 0.16 mL | N[C@H]1CNCC1 | C4H10N2
reactant | ethyl 2-bromo-4-methylthiazole-5-carboxylate | 1.20 mmol, 300 mg | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
reactant | diisopropylethylamine | 2.40 mmol, 0.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | Ethyl 2-[(3R)-3-aminopyrrolidin-1-yl]-4-methyl-1,3-thiazole-5-carboxylate | 265 mg, 87% | N[C@H]1CN(CC1)C=1SC(=C(N1)C)C(=O)OCC | C11H17N3O2S
